* ngspice-compatible replacement for LTSpice's UniversalOpAmp2.
*
* The original Analog Devices model (.subckt level2) relies on LTSpice-only
* primitives (the A-device / OTA, extended SW & D model parameters) that the
* eecircuit-engine (ngspice) cannot simulate. This is a functionally equivalent
* single-pole op-amp macromodel built from standard SPICE elements only.
*
* Pins (matching the UniversalOpAmp2 symbol, SpiceOrder 1..5):
*   1 = In+   2 = In-   3 = V+   4 = V-   5 = OUT
*
* Behaviour: DC open-loop gain Avol, one dominant pole so the gain-bandwidth
* product equals GBW, and a finite output resistance Rout. The supply pins are
* accepted but not used (ideal rails), so the model also works if V+/V- are
* left unconnected.
.subckt level2 1 2 3 4 5
.param Avol=1Meg
.param GBW=10Meg
.param Gm=1m
.param Rout=100
.param Rgain={Avol/Gm}
.param Cpole={Gm/(2*3.141592653589793*GBW)}
* Give the (unused) supply pins a DC path so an unconnected rail can't float.
Rvp 3 0 1G
Rvn 4 0 1G
* High-impedance differential input, converted to a current by the transconductor.
Rin 1 2 1G
G1 0 ng 1 2 {Gm}
* Dominant-pole gain node: DC gain = Gm*Rgain = Avol, pole at GBW/Avol.
R1 ng 0 {Rgain}
C1 ng 0 {Cpole}
* Unity-gain output buffer with series output resistance.
E1 no 0 ng 0 1
Ro no 5 {Rout}
.ends level2
