* ngspice-compatible replacement for LTSpice's UniversalOpAmp2 (.subckt level2).
*
* The original Analog Devices model relies on LTSpice-only primitives (the
* A-device/OTA, extended SW & D params) that eecircuit-engine (ngspice) cannot
* run. This is an equivalent single-pole op-amp macromodel from standard SPICE
* elements only.
*
* Pins (SpiceOrder 1..5):  1 = In+   2 = In-   3 = V+   4 = V-   5 = OUT
*
* Behaviour: open-loop gain Avol, one dominant pole (so the gain-bandwidth
* product is GBW) and a finite output resistance Rout. The internal gain node
* AND the output are clamped to the supply rails (V- .. V+). Clamping the gain
* node is what makes open-loop use (a comparator) work: without it the node
* would have to swing to Avol*Vin (millions of volts), which the ~10 Hz
* open-loop pole traverses far too slowly to ever switch, so the output would
* never leave a rail. With the clamp the node only spans the rail voltage and
* the comparator switches within the expected time.
.subckt level2 1 2 3 4 5
.param Avol=1Meg
.param GBW=10Meg
.param Gm=1m
.param Rout=100
.param Rgain={Avol/Gm}
.param Cpole={Gm/(2*3.141592653589793*GBW)}
* Keep the supply pins defined even if a rail is left unconnected.
Rvp 3 0 1G
Rvn 4 0 1G
* High-impedance differential input -> transconductor -> dominant-pole node.
Rin 1 2 1G
G1 0 ng 1 2 {Gm}
R1 ng 0 {Rgain}
C1 ng 0 {Cpole}
* Clamp the gain node to the rails so open-loop use saturates quickly.
Bclamp ng 0 I = uramp(V(ng)-V(3)) - uramp(V(4)-V(ng))
* Output = gain node, clamped to the rails, through the output resistance.
Bout no 0 V = min(max(V(ng), V(4)), V(3))
Ro no 5 {Rout}
.ends level2
